US05990105
28.40 g (0.131 mol) of 3-bromo-5-nitroaniline were dissolved in 250 ml of pyridine and treated with 30 ml (0.317 mol) of acetic anhydride. The mixture was stirred at room temperature for 18 hrs. and subsequently at 40° C. for 2 hrs. Then, the residue was digested in water and the precipitate was filtered off. The filter material was rinsed with a large amount of water and dried at 45° C. in a high vacuum. There were obtained 31.0 g (91.5%) of N-(3-bromo-5-nitrophenyl)-acetamide as orange-yellow crystals. MS (ISP): me/e=260, 258 (C8H8BrN2O3+).

reactant | 3-bromo-5-nitroaniline | 0.131 mol, 28.40 g | BrC=1C=C(N)C=C(C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | acetic anhydride | 0.317 mol, 30 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 250 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-(3-bromo-5-nitrophenyl)-acetamide | 31.0 g, 91.5% | BrC=1C=C(C=C(C1)[N+](=O)[O-])NC(C)=O | C8H7BrN2O3
